US06552035B2
5 g of Emetine dihydrochloride (5H2O) was dissolved in 100 ml of water and thereto was added 0.1 N sodium hydroxide to adjust pH to 7.5. The solution was extracted three times with 100 ml of ether. The removal of ether gave about 4 g of emetine (emetine).

reactant | Emetine dihydrochloride | 5 g | CC[C@H]1CN2CCC3=CC(=C(C=C3[C@@H]2C[C@@H]1C[C@@H]4C5=CC(=C(C=C5CCN4)OC)OC)OC)OC.Cl.Cl
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | emetine | about 4 g | CC[C@H]1CN2CCC=3C=C(C(=CC3[C@@H]2C[C@@H]1C[C@@H]4C=5C=C(C(=CC5CCN4)OC)OC)OC)OC | C29H40N2O4
